US06613784B1
D) Synthesis of 2-Acetyloxybenzoic Acid 6-(Nitroxymethyl)-2-methylpyridinyl Ester Hydrochloride
To a solution of 2-acetyloxybenzoic acid 6-(nitroxymethyl)-2-methylpyridinyl ester (1 g, 2.88 mmoles) in ethyl acetate (20 ml) cooled at 0° C., a solution of ethyl acetate/HCl 5M is added by dropping under stirring. It is left for one hour at 0° C., then the temperature is let reach room values. The formed precipitate is filtered and washed with ethyl ether. 900 mg of solid product are obtained.

reactant | 2-acetyloxybenzoic acid 6-(nitroxymethyl)-2-methylpyridinyl ester | 2.88 mmoles, 1 g | O([N+](=O)[O-])CC1=CC=C(C(=N1)C)OC(C1=C(C=CC=C1)OC(C)=O)=O | C16H14N2O7
reactant | ethyl acetate HCl | 5M | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 2-Acetyloxybenzoic Acid 6-(Nitroxymethyl)-2-methylpyridinyl Ester Hydrochloride | 900 mg | Cl.O([N+](=O)[O-])CC1=CC=C(C(=N1)C)OC(C1=C(C=CC=C1)OC(C)=O)=O | InChI=1S/C16H14N2O7.ClH/c1-10-14(8-7-12(17-10)9-23-18(21)22)25-16(20)13-5-3-4-6-15(13)24-11(2)19;/h3-8H,9H2,1-2H3;1H
